Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Power saw injury to left hand
 
Major Surgical or Invasive Procedure:
___
1. Repair of left thumb flexor pollicis longus tendon.
2. Repair of left thumb ulnar digital nerve with conduit.
3. Debridement and closure of skin, subcutaneous tissue,
    muscle 23 x 4 cm.
4. Placement of external fixator for ___ web space.
5. Placement incisional vacuum-assisted closure.

 
History of Present Illness:
This is an ___ RHD male hx of IDDM, CAD s/p CABG with stents,
CHF presenting after sustaining a power saw injury to the first
webspace of his left hand at approximately noon. Reports
significant blood loss at the scene and reports feeling
lightheaded at the time though no LOC. A friend drove him to
___ where BP cuff was placed to control what appeared to be
arterial bleeding. He received 4L of NS and was transferred to
___ for further care. On arrival the patient's left hand was
splinted, wrapped and in elevation without evidence of active
bleeding. He also endorsed smaller laceration to dorsal aspect 
of
right index finger involving the nail plate. Patient endorsed
pain in his left hand, mostly secondary to inflated BP cuff. ROS
otherwise negative. Last meal at approximatey 8am on ___.
Tetanus and first dose ancef received at ___. 

 
Past Medical History:
- CAD s/p CABG, and PCI w/ stenting, c/b NSTEMI ___, and 
chronic stable SOB (possible angina equivalent as per notes)  
- ___  
- s/p pacemaker  
- s/p Aortic Valve Replacement  
- s/p Carotid Endarterectomy  
- Atrial Fibrillation (not on A/C ___ gait instability)  
- DM (A1c 13.3 in ___  
- GERD  
- HLD  
- HTN  
- AAA (4cm on most recent US form ___  
- Right kidney solid nodule (2cm), found on ultrasound ___, 
c/f possible small RCC, with plan to f/u in 3 months w/ repeat 
imaging  
- Peripheral neuropathy  
- BPH  
- Right-sided breast cancer currently on tamoxifen which has 
reportedly been stable for years, and no plan for surgery  
- Depression  
- Sleep apnea  
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
===========================
Vitals: P 60 BP 155/92  RR 15 SpO2 100% RA
General: lying in stretcher, NAD, A&O, conversant
CV: RRR
Pulm: breathing comfortably on RA without audible wheezing
R hand: 2cm superficial laceration over dorsal aspect of index
finger, no active bleeding. Normal sensation, circulation and
motor function.
L hand: Significant laceration through first webspace. No active
bleeding initially, with one episode of arterial bleeding from
dorsal metacarpal artery observed during exam which was
controlled with direct pressure. Radial and ulnar pulses intact.
Decreased sensation over ulnar side of thumb. Digital arteries
intact with Doppler distal to injury. Thumb SpO2 in high 90's
with good arterial waveform. Extension all digits intact. 
Patient
is able to make a fist. Patient has difficulty with thumb
adduction and thumb IP flexion

PHYSICAL EXAM ON DISCHARGE
============================
Vital Signs: T 98.5 BP 114-156/48-71 HR ___ RR 19 95 RA
GENERAL: well appearing, pleasant, lying in bed, NAD  
HEENT: unable to asses JVP given body habitus, MMM, OP clear  
CARDIAC: RRR, has systolic murmur at RUSB most prominently, 
normal S1/S2, has palpable pacemaker on left chest, has CABG 
scar in midline  
LUNGS: CTA b/l, no wheezes/rales/rhonchi, breathing comfortably  

ABDOMEN: Normative BS, distended, non tender, no rebound or 
guarding 
EXTREMITIES: warm, well perfused, no edema, left hand in splint, 
SILT, able to make a fist 
SKIN: warm and well perfused  
NEURO: AOx3,PERRL, moving all extremities with purpose 

 
Pertinent Results:
ADMISSION LABS
===============
___ 02:00PM BLOOD WBC-6.9 RBC-2.86* Hgb-8.6* Hct-26.1* 
MCV-91 MCH-30.1 MCHC-33.0 RDW-13.5 RDWSD-44.7 Plt ___
___ 02:00PM BLOOD Neuts-66.1 ___ Monos-8.5 Eos-1.3 
Baso-0.7 Im ___ AbsNeut-4.57 AbsLymp-1.59 AbsMono-0.59 
AbsEos-0.09 AbsBaso-0.05
___ 02:00PM BLOOD ___ PTT-24.4* ___
___ 02:00PM BLOOD Glucose-263* UreaN-23* Creat-1.6* Na-141 
K-4.6 Cl-110* HCO3-20* AnGap-16

IMAGING/STUDIES
===============
HAND (PA,LAT & OBLIQUE) LEFTStudy Date of ___ 2:35 ___

Substantial degenerative changes are seen involving all 
interphalangeal joints as well as the first CMC and triscaphe 
joints.  There appears to have been a prior partial amputation 
of the distal phalanx of the second digit.

HAND (PA,LAT & OBLIQUE) RIGHTStudy Date of ___ 2:35 ___

There is substantial degenerative changes involving all of the 
interphalangeal joints as well as the first CMC and especially 
the triscaphe joints.  On all views there is partial subluxation 
at the first metacarpophalangeal joint. No definite fracture is 
identified.

DISCHARGE LABS
===============
___ 05:50AM BLOOD WBC-7.8 RBC-2.62* Hgb-7.9* Hct-23.9* 
MCV-91 MCH-30.2 MCHC-33.1 RDW-14.0 RDWSD-46.0 Plt ___
___ 05:50AM BLOOD Glucose-135* UreaN-20 Creat-1.5* Na-140 
K-3.8 Cl-106 HCO3-25 AnGap-___ ___ of DM, CAD (s/p CABG and PCI), dCHF, HTN who presented to 
ED s/p power saw injury to ___ webspace which he was admitted to 
plastic surgery and underwent operative repair on ___.

# Power Saw Injury
The patient was admitted from ___ s/p power saw injury to 
webspace of left hand. He was transferred to ___ due to 
concern for arterial bleeding. The patient underwent repair of 
left thumb flexor pollicis longus tendon, repair of left thumb 
ulnar digital nerve with conduit, debridement and closure of 
skin, subcutaneous tissue, and muscle, placement of external 
fixator for ___ web space, and placement of an incisional 
vacuum. He tolerated the procedure well. The wound vac was 
removed on POD#1. He was cleared by OT and ___. On discharge his 
pain was well controlled with oral medications, he was 
tolerating a diet, and ambulating without difficulty.  He will 
continue 1 week of duracef and will follow up with Dr. ___ in 
clinic on ___ per plastic surgery recommendations. The patient 
will have a ___ for wound care for assistance with dressing 
changes.

# Diabetes mellitus
Patient has had fluctuating insulin needs at home. Recently 
diagnosed from ___ on lantus 70u QHS and Humalog TID (10 
units plus a sliding scale at each meal), however had recently 
decreased to 60u QHS. He was put on a reduced dose in the 
perioperative period to be covered with a sliding scale to 
prevent hypoglycemia. His blood sugars were somewhat elevated on 
this regimen, and he was placed back on his home regimen of 
insulin on discharge.

CHRONIC ISSUES
=====================
# CAD s/p CABG, PCI with stenting, c/b NSTEMI ___
Patient continued aspirin, atorvastatin 40 mg QHS, losartan  50 
mg, isosorbide 30 mg, metoprolol 25 mg.

# CHF
Patient remained euvolemic. IV fluids were discontinued post 
operatively. The patient was continued on home furosmide, 
losartan, isosorbide and metoprolol.  

# CKD Stage III
No evidence of hydronephrosis on US on previous admission. Cr of 
1.6 on discharge from ___ in ___. Cr remained stable 
throughout admission, with creatinine of 1.5 on discharge.

# HL
Patient continued aotrvastatin as above. 

# GERD
Patient continued omprazole 40 mg daily.

# BPH
Patient continued tamsulosin 0.4 mg daily.

# R sided breast cancer 
Patient coontinued tamoxifen.

# HTN
Patient continued losartan and isosorbide as above.

# Depression
Patient continued fluoxetine 20 mg daily.

TRANSITIONAL ISSUES
======================
[ ] ___ for wound care, will change dressing ___
- Daily dressing changes with adaptec, kerlex, and ACE
- No wound care at home
[ ] WEIGHT BEARING:
- Left upper extremity non weight bearing
- Left hand non weight bearing
- Thumb: passive flexion only, no active flexion, No 
active/passive extension.
[ ] CBC, Chem 7, fingerstick blood glucose at next PCP ___ 
(within ___ days)
[ ] F/u insulin regimen at next PCP ___
[ ] Abx: Complete 1 week course of cefadroxil (___)
[ ] F/u with Dr. ___ ___ (Plastic/Hand Surgery)
IMAGING FOLLOW UP PER ___ RECORDS:
"2 cm right kidney solid nodule, found on ultrasound. Appreciate 
Dr. ___, who recommends that the patient follow up with 
him in the office in 3 months with a renal ultrasound prior to 
the visit"
FULL CODE
CONTACT: Daughter ___ ___ ___ 
___ Home ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Fluoxetine 20 mg PO DAILY 
5. Tamsulosin 0.4 mg PO QHS 
6. Atorvastatin 40 mg PO QPM 
7. Furosemide 80 mg PO DAILY 
8. Losartan Potassium 50 mg PO DAILY 
9. Tamoxifen Citrate 20 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. Metoprolol Succinate XL 25 mg PO DAILY 
12. Glargine 60 Units Bedtime
Lispro 10 Units Breakfast
Lispro 10 Units Lunch
Lispro 10 Units Dinner
Insulin SC Sliding Scale using Lispro Insulin

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Fluoxetine 20 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. Furosemide 80 mg PO DAILY 
6. Glargine 60 Units Bedtime
Lispro 10 Units Breakfast
Lispro 10 Units Lunch
Lispro 10 Units Dinner
Insulin SC Sliding Scale using Lispro Insulin
7. Losartan Potassium 50 mg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Tamoxifen Citrate 20 mg PO DAILY 
11. Tamsulosin 0.4 mg PO QHS 
12. Vitamin D ___ UNIT PO DAILY 
13. Acetaminophen 650 mg PO Q6H:PRN pain 
14. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
15. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every 6 
hours Disp #*8 Tablet Refills:*0
16. cefaDROXil 1 gram oral DAILY Duration: 6 Days 
RX *cefadroxil 1 gram 1 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0
17. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 Tab by mouth twice a day Disp 
#*60 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
=====================
Power saw injury to left hand
Type II Diabetes Mellitus

Secondary Diagnoses
======================
Coronary Artery Disease status post percutaneous coronary 
intervention and coronary artery bypass graft
Congestive Heart Failure
Atrial Fibrillation
Hypertension
Hyperlipidemia
Gastroesophageal Reflux Disorder
Abdominal Aortic Aneurysm
Benign Prostatic Hypertrophy
Peripheral neuropathy
Right sided breast cancer
Depression
Sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___. 
You were admitted to the hospital because of a power saw injury 
to your hand. You had surgery to repair the injury to your 
muscles and skin of your hand. The surgery went well. You will 
have a visiting nurse who will help you with the dressing 
changes after the surgery. You should continue to only use your 
arm as instructed by the occupational therapist. You should not 
bear weight on your left hand or left arm for the time being.

You will need to follow up with Dr. ___ surgeon who 
performed your surgery) on ___. Your appointments and 
medications will be listed below in your discharge paperwork. 

We Wish You The Best
-Your ___ Care Team
 
Followup Instructions:
___